US06437165B1
Step D: (±)-Diethyl 3-benzyloxycarbonylamino-3-methyl-5-(4-(octyl)phenyl)pentylphosphonic acid
To a solution of (±)-diethyl 3-carboxy-3-methyl-5-(4-(octyl)phenyl)pentylphosphonate (0.165 g, 0.362 mmol) in tetrahydrofuran (1 ml) at 0° C. was added triethylamine (0.061 ml, 0.434 mmol) followed by methyl chloroformate (0.053 ml, 0.699 mmol). After stirring for 15 min, sodium azide (0.071 g, 1.08 mmol) in water (1 ml) was added. The ice bath was removed and the reaction stirred for 1 h. The reaction was diluted with ethyl acetate (25 ml) and washed with 2N aq HCl (25 ml), saturated aqueous sodium chloride (25 ml), dried over magnesium sulfate and concentrated to give a colorless oil. This oil was dissolved in toluene (1 ml), benzyl alcohol (0.056 ml, 0.543 mmol) was added and the solution heated to 90° C. for 4 h. The reaction was cooled, placed onto silica gel and eluted with hexane/acetone (70:30) to give a colorless oil (0.097 g): MS m/e 560.4 (M+).

reactant | (±)-diethyl 3-carboxy-3-methyl-5-(4-(octyl)phenyl)pentylphosphonate | 0.362 mmol, 0.165 g | C(=O)(O)C(CCP(OCC)(OCC)=O)(CCC1=CC=C(C=C1)CCCCCCCC)C | C25H43O5P
reactant | triethylamine | 0.434 mmol, 0.061 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.699 mmol, 0.053 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium azide | 1.08 mmol, 0.071 g | [N-]=[N+]=[N-].[Na+]
reactant | benzyl alcohol | 0.543 mmol, 0.056 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-Diethyl 3-benzyloxycarbonylamino-3-methyl-5-(4-(octyl)phenyl)pentylphosphonic acid | 0.097 g | C(C)OP(OCC)(=O)CCC(CCC1=CC=C(C=C1)CCCCCCCC)(C)NC(=O)OCC1=CC=CC=C1 | C32H50NO5P
